US06930104B2
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (400 mg, 1.22 mmol) prepared in Reference Example 1 and 1,2,3,4-tetrahydroquinoline (487 mg, 3.66 mmol), the same procedure as shown in Example 1 was repeated to give the product of interest, i.e., 1-(3,4-dimethoxybenzoyl)-2-methyl-4-(tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline (216 mg, yield: 40%) as a colorless oil. (cis:trans=1.6:1)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.22 mmol, 400 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 1,2,3,4-tetrahydroquinoline | 3.66 mmol, 487 mg | N1CCCC2=CC=CC=C12 | C9H11N
product | 1-(3,4-dimethoxybenzoyl)-2-methyl-4-(tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline | 216 mg, yield: 40% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3CC=CC=C23)C)C=CC1OC | C28H32N2O3
